US08207134B2
4) Synthesis of (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-2-chloro-3-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran]
(3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-2-trimethylsilyl-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran] (0.122 g, 0.139 mmol) was dissolved in acetonitrile (0.93 mL). Sulfuryl chloride (20.6 mg, 0.153 mmol) was added to the resultant solution, and then the solution was stirred for 3.5 hours at room temperature. Saturated aqueous sodium hydrogen carbonate was added thereto, and the resultant mixture was extracted with ethyl acetate. The organic layer was concentrated under reduced pressure, and the resulting residue was purified by silica gel flash column chromatography (developing solution=ethyl acetate:n-hexane (1:11.5)), to thereby obtain the titled compound (50.2 mg, 43%).

reactant | (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-3-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-2-trimethylsilyl-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran] | 0.139 mmol, 0.122 g | C(C1=CC=CC=C1)O[C@H]1[C@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC=1C=C3C(=CC12)C(=C(S3)[Si](C)(C)C)CC3=CC=C(C=C3)CC | C55H58O6SSi
reactant | Sulfuryl chloride | 0.153 mmol, 20.6 mg | S(=O)(=O)(Cl)Cl | Cl2O2S
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | acetonitrile | 0.93 mL | C(C)#N | C2H3N
product | (3′R,4′S,5S,5′S,6′R)-3′,4′,5′-tris-benzyloxy-6′-benzyloxymethyl-2-chloro-3-[(4-ethylphenyl)methyl]-3′,4′,5′,6′-tetrahydro-spiro[thieno[2,3,f]isobenzofuran-5(7H),2′-[2H]pyran] | 50.2 mg, 43% | C(C1=CC=CC=C1)O[C@H]1[C@]2(O[C@@H]([C@@H]([C@@H]1OCC1=CC=CC=C1)OCC1=CC=CC=C1)COCC1=CC=CC=C1)OCC=1C=C3C(=CC12)C(=C(S3)Cl)CC3=CC=C(C=C3)CC | C52H49ClO6S
